US08563565B2
(2) Synthesis of ethyl 5-(2-fluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-[(3RS,4SR)-4-hydroxytetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
Ethyl 5-(4-bromo-2-fluorophenyl)-1-[(3RS,4SR)-4-hydroxytetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (3.8 g), bis(pinacolato)diboron (2.90 g), potassium acetate (2.80 g) and Pd(dppf)Cl2-DCM complex (480 mg) were added to DMF (38.3 mL), and the mixture was stirred at 90° C. in a nitrogen atmosphere. After stirring the reaction mixture for about two hours, a solution of 3-bromo-2-methoxy-4,6-dimethylpyridine obtained in Preparation Example 26 (3.09 g) in DMF (15 mL), and water (22 mL) were added, and the mixture was warmed to 120° C. and further stirred for about five hours. The reaction mixture was cooled to room temperature and concentrated under reduced pressure, and the residue was passed through a silica gel pad (NH silica gel, eluting with ethyl acetate). The filtrate was concentrated to about 200 mL and then partitioned by adding brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated, and the residue was purified by NH silica gel column chromatography (ethyl acetate/n-heptane, 70% to 90%) to give the title compound (2.26 g).

reactant | Ethyl 5-(4-bromo-2-fluorophenyl)-1-[(3RS,4SR)-4-hydroxytetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 3.8 g | BrC1=CC(=C(C=C1)C1=C(C=NN1C1COCC1O)C(=O)OCC)F | C16H16BrFN2O4
reactant | bis(pinacolato)diboron | 2.90 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.80 g | C(C)(=O)[O-].[K+]
reactant | 3-bromo-2-methoxy-4,6-dimethylpyridine | BrC=1C(=NC(=CC1C)C)OC | C8H10BrNO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 38.3 mL | CN(C)C=O | C3H7NO
solvent | water | 22 mL | O | H2O
product | ethyl 5-(2-fluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-[(3RS,4SR)-4-hydroxytetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 2.26 g | FC1=C(C=CC(=C1)C=1C(=NC(=CC1C)C)OC)C1=C(C=NN1C1COCC1O)C(=O)OCC | C24H26FN3O5
